US04957930
Ethyl 4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-butynoate
A solution of 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-butynoic acid (2.50 g), benzyltrimethylammonium hydroxide (0.87 g) and ethyl bromide (0.62 g) in dimethyl sulphoxide (5 ml) was stirred at room temperature for 48 hours, quenched into water and extracted twice into ethyl acetate. The combined ethyl acetate extracts were washed with water, dried over MgSO4 and evaporated. The residue was crystallised from methanol to give the title compound (2.22 g), m.p. 123°-125°.

reactant | 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-butynoic acid | 2.50 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#CC(=O)O)C(=O)OCC | C22H21Cl2NO7
reactant | benzyltrimethylammonium hydroxide | 0.87 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | ethyl bromide | 0.62 g | C(C)Br | C2H5Br
solvent | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
product | Ethyl 4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-butynoate | 2.22 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#CC(=O)OCC)C(=O)OCC | C24H25Cl2NO7
